US07138432B1
To a solution of 30.97 g (0.148 mol) of (4-methoxy-benzylamino)-acetic acid methyl ester in 200 ml of dioxane and 200 ml of H2O, 25 ml (0.178 mol) of triethylamine a solution of 43.9 g (0.163 mol) of 4-(3-chloro-propoxy)-benzenesulfonyl chloride in 100 ml of dioxane is added at 0–5° C. The mixture is allowed to warm to r.t. and stirred for 3 h. The reaction mixture is neutralized with 1 N HCl and extracted with AcOEt. The combined extracts are dried over MgSO4 and concentrated under reduced pressure to give {[4-(3-chloro-propoxy)-benzenesulfonyl]-(4-methoxy-benzyl)-amino}-acetic acid methyl ester; NMR (CDCl3): 2.25–2.35 (m, 2H), 3.56 (s, 3H), 3.75 (t, 2H, J=6.04 Hz), 3.79 (s, 3H), 3.9 (s, 2H), 4.2 (t, 2H, J=6.04 Hz), 4.39 (s, 2H), 6.84 (d, 2H, J=8.56 Hz), 6.99 (d, 2H, J=9.08 Hz), 7.16 (d, 2H, J=9.08 Hz), 7.83 (d, 2H, J=8.56 Hz).

reactant | (4-methoxy-benzylamino)-acetic acid methyl ester | 0.148 mol, 30.97 g | COC(CNCC1=CC=C(C=C1)OC)=O | C11H15NO3
reactant | triethylamine | 0.178 mol, 25 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(3-chloro-propoxy)-benzenesulfonyl chloride | 0.163 mol, 43.9 g | ClCCCOC1=CC=C(C=C1)S(=O)(=O)Cl | C9H10Cl2O3S
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 200 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | {[4-(3-chloro-propoxy)-benzenesulfonyl]-(4-methoxy-benzyl)-amino}-acetic acid methyl ester | COC(CN(CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OCCCCl)=O | C20H24ClNO6S
